US05414069
EXAMPLE 8: Preparation of N-allylcarbazole
Into a 500-mL, three-necked, round-bottomed flask, equipped with a magnetic stirrer, a thermometer, and a condenser connected to a nitrogen bubbler, were placed carbazole (8.4 g, 50 mmole), allyl bromide (10 mL, 115 mmole), powdered anhydrous potassium carbonate (41 g, 300 mmole), and anhydrous acetonitrile (300 mL). The resultant mixture was stirred and heated under reflux with a heating mantle for 18 hours. Dichloromethane (300 mL) was then added, and the mixture was filtered through a pad of Celite. The clear filtrate was evaporated, and the residue was recrystallized from methanol to yield the desired product as amber-colored crystals. The product had melting point 56°-57° C., and sublimation (100° C./0.1 mm Hg) yielded white crystals (8.65 g, 83%), melting point 57°-58° C. The proton NMR spectrum in carbon tetrachloride was

reactant | carbazole | 50 mmole, 8.4 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | allyl bromide | 115 mmole, 10 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 300 mmole, 41 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | Dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-allylcarbazole | C(C=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H13N
